US05869696
5'-O-(tert-Butyldimethylsilyl)-3'-O-(4,4'-dimethoxytrityl)-2'-deoxy-2'-(benzoylthio)-uridine (1.4 mmole) was treated with 20 ml of 1.0M tetrabutylammonium fluoride in THF at room temperature for 16 hr. The solvent was removed and the residue was purified on silica gel column chromatography to provide 2'-(benzoylthio)-3'-O-(4,4'-dimethoxytrityl)-2'-deoxyuridine.

reactant | 5'-O-(tert-Butyldimethylsilyl)-3'-O-(4,4'-dimethoxytrityl)-2'-deoxy-2'-(benzoylthio)-uridine | 1.4 mmole | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)SC(C1=CC=CC=C1)=O)OC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C43H48N2O8SSi
reactant | tetrabutylammonium fluoride | 1.0M, 20 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 2'-(benzoylthio)-3'-O-(4,4'-dimethoxytrityl)-2'-deoxyuridine | C(C1=CC=CC=C1)(=O)S[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1)CO)N1C(=O)NC(=O)C=C1 | C37H34N2O8S
